US09163012B2
To a stirred solution of crude 5-methyl-2-(pyrrolidin-3-yl)pyridine (200 mg, 1.24 mmol) in dry CH2Cl2 (4 mL) was added (Boc)2O (432 mg, 2.0 mmol) and Et3N (300 mg, 3 mmol) at 0° C. The mixture was stirred at rt for 1 h. TLC showed disappearance of starting material. The mixture was quenched with water (20 mL) and extracted with EtOAc (30 mL×3). The combined organic layer was washed with water (10 mL) and brine (10 mL), dried over Na2SO4 and concentrated. The residue was purified by preparative TLC (PE/EA=1:1) to afford tert-butyl 3-(5-methylpyridin-2-yl)pyrrolidine-1-carboxylate (85 mg, 26%) as a yellow oil.

reactant | 5-methyl-2-(pyrrolidin-3-yl)pyridine | 1.24 mmol, 200 mg | CC=1C=CC(=NC1)C1CNCC1 | C10H14N2
reactant | (Boc)2O | 2.0 mmol, 432 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 3 mmol, 300 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(5-methylpyridin-2-yl)pyrrolidine-1-carboxylate | 85 mg, 26% | CC=1C=CC(=NC1)C1CN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
